US07737152B2
6-(5,6,7,8-Tetrahydronaphthalen-1-yloxy)-N-(3,4,5-trimethoxyphenyl)pyrazin-2-amine, CJS 724
Using Method X with 150 mg of 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine and 5,6,7,8-tetrahydro-1-naphthol, the title compound was obtained (27 mg). Yield: 13%. 1H NMR (250 MHz, DMSO-d6) δ 1.65-1.69 (m, 4H), 2.53-2.56 (m, 2H), 2.72-2.77 (m, 2H), 3.42 (s, 6H), 3.54 (s, 3H), 6.74 (s, 2H), 6.89 (d, 1H, J=7.9 Hz), 6.95 (d, 1H, J=6.6 Hz), 7.11 (t, 1H, J=7.8 Hz), 7.71 (s, 1H), 7.91 (s, 1H), 9.55 (bs, 1H). 13C NMR (62.9 MHz, DMSO-d6) δ 22.01, 22.26, 23.12, 28.78, 55.36, 60.03, 95.72, 118.40, 120.56, 125.66, 126.09, 127.60, 129.06, 132.10, 136.39, 138.76, 150.59, 151.46, 152.70, 157.65. m/z 408.2 [(M+H)+ calcd for C23H25N3O4 407.2].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine | 150 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)Cl | C13H14ClN3O3
reactant | 5,6,7,8-tetrahydro-1-naphthol | C1(=CC=CC=2CCCCC12)O | C10H12O
product | 6-(5,6,7,8-Tetrahydronaphthalen-1-yloxy)-N-(3,4,5-trimethoxyphenyl)pyrazin-2-amine | Yield: 13% | C1(=CC=CC=2CCCCC12)OC1=CN=CC(=N1)NC1=CC(=C(C(=C1)OC)OC)OC | C23H25N3O4
